US07405231B2
iv) 3-(4-Trifluoromethylsulfanyl-phenyl)-acrylic acid
A mixture of 5.42 g (26.3 mmol) 4-trifluoromethylsulfanyl-benzaldehyde, 3.12 g (30.0 mmol) malonic acid, 0.26 g (3.0 mmol) piperidine and 12.0 ml pyridine was kept at reflux temperature until carbon dioxide development ceased (5 h). The reaction mixture was poured into a solution of 50 ml ice water and 15 ml 6N HCl. The precipitate was isolated, washed with water, then with n-heptane and dried at 50° C. Yield: 5.9 g (85%) 3-(4-Trifluoromethylsulfanyl-phenyl)-acrylic acid.

reactant | 4-trifluoromethylsulfanyl-benzaldehyde | 26.3 mmol, 5.42 g | FC(F)(F)SC1=CC=C(C=O)C=C1 | C8H5F3OS
reactant | malonic acid | 30.0 mmol, 3.12 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 3.0 mmol, 0.26 g | N1CCCCC1 | C5H11N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | HCl | 6N, 15 ml | Cl | ClH
solvent | pyridine | 12.0 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-Trifluoromethylsulfanyl-phenyl)-acrylic acid | FC(F)(F)SC1=CC=C(C=C1)C=CC(=O)O | C10H7F3O2S
